* source _FIG3_18_MSD
V_VCM         VCM 0 DC .5  
C_C1         VOUTP VOUTM  10p  TC=0,0 
V_Vinp         VINP 0 DC .5Vdc AC .5Vac 
R_U1_R1         VOUTM U1_VCMB  1G TC=0,0 
R_U1_R2         U1_VCMB VOUTP  1G TC=0,0 
G_U1_G1         VOUTM VOUTP VINP VINM 100u
E_U1_E1         U1_VCMB 0 VCM 0 1
V_Vinm         VINM 0 DC .5Vdc AC -.5Vac 
R_U2_R1         VOUTP U2_VCMB  1G TC=0,0 
R_U2_R2         U2_VCMB VOUTM  1G TC=0,0 
G_U2_G1         VOUTP VOUTM VOUTP VOUTM 100u
E_U2_E1         U2_VCMB 0 VCM 0 1
